US07598393B2
Step A. 4-Bromo-2-nitro-N-(tetrahydro-2H-pyran-4-ylmethyl)aniline
The title compound was prepared according to the procedure described in Step A of Example 5 from 4-bromo-1-flouro-2-nitrobenzene (Wako Pure Chemical Industries, Ltd.) and 4-aminomethyltetrahydropyran (Apollo Scientific Ltd.).

reactant | 4-bromo-1-flouro-2-nitrobenzene | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | 4-aminomethyltetrahydropyran | NCC1CCOCC1 | C6H13NO
product | 4-Bromo-2-nitro-N-(tetrahydro-2H-pyran-4-ylmethyl)aniline | BrC1=CC(=C(NCC2CCOCC2)C=C1)[N+](=O)[O-] | C12H15BrN2O3
